US08236803B2
Bromine (18.0 ml, 353.7 mmol) is slowly added to a soln. of 2-amino-5-chloropyridine (15.0 g, 116.7 mmol) in 47% aq. HBr (75.0 ml) at −10° C. An aq. soln. of NaNO2 (28.1 g, 407.3 mmol) is slowly added. The mixture is stirred for 1 h at −10 to −5° C., then for 1 h at 5° C. The mixture is neutralised with 5M aq. NaOH soln. maintaining the temperature below 25° C. The precipitate is filtered and recrystallized from pentane to give 2-bromo-5-chloropyridine. 2-Bromo-5-chloropyridine (5.0 g, 26.0 mmol), p-tolylboronic acid (4.0 g, 29.4 mmol) and tetrakis(triphenylphosphine)palladium (1.44 g, 1.2 mmol) are dissolved in toluene:EtOH 9:1 (1375 ml). A 2M aq. Na2CO3 soln. (62.5 ml) is added to the reaction mixture. The mixture is stirred at 90° C. for 24 h, cooled to rt and filtered over celite. The toluene layer is separated and washed with brine. The aq. layers are extracted with AcOEt. The combined organic extracts are dried over MgSO4 and filtered. The filtrate is evaporated to give a brown solid which is purified by FC (silica gel, eluent toluene) to give 5-chloro-2-p-tolyl-pyridine. (R)-3-Quinuclidinol (2.97 g, 23.4 mmol) is added to a suspension of NaH (0.96 g of a 60% dispersion in mineral oil, 22.8 mmol) in DMF (90 ml). The mixture is stirred for 1 h at rt. 5-Chloro-2-p-tolyl-pyridine (4.00 g, 19.6 mmol) is added and the mixture is heated for 135 h at 135° C. The reaction mixture is diluted with toluene and washed with 1 M aq. NaOH soln. and brine. The aq. layers are re-extracted with toluene (3×). The combined organic extracts are dried over MgSO4 and filtered. The filtrate is evaporated to give a brown oil which is purified by FC (silica gel, eluents: AcOEt, then AcOEt/MeOH/NEt3 87:10:3) and recrystallized from CH3CN to give (R)-3-(6-p-tolyl-pyridin-3-yloxy)-1-aza-bicyclo[2.2.2]octane; mp ° C.: 110-112; [α]Drt=+21.2° (0.50, MeOH), M+H+ 295.2.

reactant | (R)-3-Quinuclidinol | 23.4 mmol, 2.97 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | NaH | [H-].[Na+]
reactant | 5-Chloro-2-p-tolyl-pyridine | 19.6 mmol, 4.00 g | ClC=1C=CC(=NC1)C1=CC=C(C=C1)C | C12H10ClN
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (R)-3-(6-p-tolyl-pyridin-3-yloxy)-1-aza-bicyclo[2.2.2]octane | C1(=CC=C(C=C1)C1=CC=C(C=N1)O[C@H]1CN2CCC1CC2)C | C19H22N2O
